US06784323B2
(R)-3-(1H-Indol-3-yl)-butanal (89.5 mg, 0.479 mmol) was treated with ethylene glycol (130 μL, 2.4 mmol) and a catalytic amount of p-TSA in CH2Cl2 (2 mL). The reaction was stirred at room temperature for 12 h, at which time the organics were removed in vacuo. The solution was diluted with H2O (10 mL) and extracted with Et2O (3×20 mL). The collected organics where washed with brine, dried over Na2SO4 and concentrated in vacuo to provide (R)-3-(2-[1,3]-dioxolan-2-yl-1-methyl-ethyl)-1H-indole (15.7 mg 0.0680 mmol) after silica gel chromatography (20:80 EtOAc/hexanes). This residual material was then exposed to 1 mL of DMSO, finely crushed KOH (15.3 mg, 0.272 mmol), and benzyl bromide (12 μL, 0.13 mmol) at 0° C., then the solution was allowed to warm to room temperature and stirred for 12 h. The reaction was then treated with water (10 ml), and extracted with Et2O (2×20 ml). The aqueous layer was acidified to pH 4, extracted with Et2O 3×20 ml), dried over Na2SO4 and concentrated in vacuo to provide 14.7 mg of (R)-1-benzyl-3-(2-[1,3]dioxolan-2-yl-1-methyl)-1H-indole after preparative TLC (20:80 EtOAc/hexanes). The benzylated product was then refluxed with a catalytic amount of p-TSA in H2O (1 mL)/acetone (2 mL) overnight. The reaction mixture was diluted with H2O (5 mL), and extracted with Et2O (3×10 mL). The collected organics were washed with brine, dried over Na2SO4 and concentrated in vacuo to provide (R)-3-(1-benzyl-1H-indol-3-yl)-butanal (5.5 mg, 0.020 mmol) after preparative TLC. [α]D=+3.8 (c=1.0, CHCl3); reported rotation for (R)-3-(1-benzyl-1H-indol-3-yl)-butanal [α]D=+3.5 (c=1.0, CHCl3).

reactant | (R)-3-(1H-Indol-3-yl)-butanal | 0.479 mmol, 89.5 mg | N1C=C(C2=CC=CC=C12)[C@@H](CC=O)C | C12H13NO
reactant | ethylene glycol | 2.4 mmol, 130 μL | C(CO)O | C2H6O2
reactant | p-TSA | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | (R)-3-(2-[1,3]-dioxolan-2-yl-1-methyl-ethyl)-1H-indole | 0.0680 mmol, 15.7 mg | O1C(OCC1)C[C@@H](C)C1=CNC2=CC=CC=C12 | C14H17NO2
